US04925838
A solution of (2S,4R)-4-methanesulfonyloxy-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (2.50 g) and tetra-n-butylammonium thioacetate (4.16 g) in acetonitrile (70 ml) was stirred at 50°-60° C. for 4 hours. The reaction mixture was evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (200 g) eluting with a mixture of chloroform and methanol (20:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-4-acetylthio-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (1.84 g).

reactant | (2S,4R)-4-methanesulfonyloxy-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 2.50 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C)CN1C(NCC1)=O | C10H19N3O4S
reactant | tetra-n-butylammonium thioacetate | 4.16 g | C(C)(=S)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | (2S,4S)-4-acetylthio-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 1.84 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C)CN1C(NCC1)=O | C11H19N3O2S
